US08071624B2
N-Cyclohexyl-1-[(2-nitrophenyl)sulfonyl]piperidine-3-carboxamide
To a solution of 2-nitrobenzene-1-sulfonyl chloride (12.3 mg) and N-cyclohexylpiperidine-3-carboxamide (TFA salt, 18 mg) from Step 2 in 0.2 mL acetonitrile was added triethylamine (19.3 μL). The reaction mixture was stirred at RT for 2 hours and directly purified by HPLC to give 13.2 mg of desired product. LCMS: m/z 396.1 (M+H)+; 813.3 (2M+Na)+.

reactant | 2-nitrobenzene-1-sulfonyl chloride | 12.3 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N-cyclohexylpiperidine-3-carboxamide | 18 mg | C1(CCCCC1)NC(=O)C1CNCCC1 | C12H22N2O
reactant | triethylamine | 19.3 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
product | N-Cyclohexyl-1-[(2-nitrophenyl)sulfonyl]piperidine-3-carboxamide | 13.2 mg | C1(CCCCC1)NC(=O)C1CN(CCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C18H25N3O5S
